US06080754
4-Acetyl-1-ethyl-7-benzyloxy-2-(4-benzyloxyphenyl)pyrrolo[2,1,5-cd]indolizine
1-Ethyl-8-benzyloxy-2-(4-benzyloxyphenyl)indolizine was reacted with 3-butyn-2-one by the general synthetic principles outlined in example 73, step 1, to afford the title compound as yellow crystals in 14% yield. M.p. 147-149° C. MS(SP): m/z 499 (M+). 1H--NMR (DMSO-d6, 200 MHz) δ: 1.37 (t, 3 H); 2.65 (s, 3 H); 3.16 (q, 2 H); 5.22 (s, 2 H); 5.53 (s, 2 H); 7.23 (d, 2 H); 7.33-7.83 (m, 13 H); 8.13 (s, 1 H); 8.28 (d, 1 H).

reactant | 1-Ethyl-8-benzyloxy-2-(4-benzyloxyphenyl)indolizine | C(C)C=1C(=CN2C=CC=C(C12)OCC1=CC=CC=C1)C1=CC=C(C=C1)OCC1=CC=CC=C1 | C30H27NO2
reactant | 3-butyn-2-one | CC(C#C)=O | C4H4O
product | 4-Acetyl-1-ethyl-7-benzyloxy-2-(4-benzyloxyphenyl)pyrrolo[2,1,5-cd]indolizine | 14% yield | C(C)(=O)C=1C=C2C(=C(C3=C(C=CC1N23)OCC2=CC=CC=C2)CC)C2=CC=C(C=C2)OCC2=CC=CC=C2 | C34H29NO3
